US08357703B2
e) 6-(3-Butyl-isoxazol-4-ylmethoxy)-N-isopropyl-nicotinamide
As described for example 5d, 6-(3-butyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (200 mg, 0.69 mmol) was converted, instead of 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester, to the title compound (200 mg, 91%) which was obtained as a light brown solid after purification by chromatography (silica, 40 to 60% ethyl acetate in heptane). MS: m/e=318.3 [M+H]+.

reactant | 6-(3-butyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.69 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)CCCC)=O | C15H18N2O4
reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
product | 6-(3-Butyl-isoxazol-4-ylmethoxy)-N-isopropyl-nicotinamide | 200 mg, 91% | C(CCC)C1=NOC=C1COC1=NC=C(C(=O)NC(C)C)C=C1 | C17H23N3O3
